US05614548
(±)-1-S-hexadecyl-2-O-ethylthioglycerol
This compound was prepared in an analogous manner to that of (±)-1-S-hexadecyl-2-O-methylthioglycerol from 10.0 grams (0.02 mole) of (±)-1-2-hexadecyl-2-O-ethyl-3-O-tritylthioglycerol and 0.2 gram of p-toluenesulfonic acid. Silica gel chromatography (CHCl3 eluent) provided 5.8 grams (95%) of a semi-waxy solid. 1H-NMR (CDCl3): delta, 0.87(t, 3H, terminal methyl), 1.2-1.6[m, 31H, (CH2)14, CH3 --CH2 --O--], 2.58 (m, 2H, S--CH2), 2.62 (m, 2H, CH--CH2 --S), 3.40-3.50 (m, 3H, CH, CH3 --CH2 --O), 3.75(m, 2H, CH2 --OH).

reactant | (±)-1-S-hexadecyl-2-O-methylthioglycerol | C(CCCCCCCCCCCCCCC)SCC(OC)CO | C20H42O2S
reactant | (±)-1-2-hexadecyl-2-O-ethyl-3-O-tritylthioglycerol | 0.02 mole, 10.0 grams | CC(CCCCCCCCCCCCCC)SCC(OCC)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H58O2S
reactant | p-toluenesulfonic acid | 0.2 gram | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (±)-1-S-hexadecyl-2-O-ethylthioglycerol | 5.8 grams, 95% | C(CCCCCCCCCCCCCCC)SCC(OCC)CO | C21H44O2S
